US03963780
A mixture of 50 g. of 1-chloro-4-nitrobenzene, 76 g. of 2-phenylethylamine, and 30 ml. of dimethylsulfoxide is heated for 18 hours at 150°C. The resultant reaction mixture is poured into 3 liters of water. The precipitate formed is recovered by filtration and recrystallized from ether to yield the product, N-(2-phenylethyl)-p-nitroaniline; m.p. 57°-59°C.

reactant | 1-chloro-4-nitrobenzene | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | 2-phenylethylamine | C1(=CC=CC=C1)CCN | C8H11N
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
solvent | water | 3 liters | O | H2O
product | N-(2-phenylethyl)-p-nitroaniline | C1(=CC=CC=C1)CCNC1=CC=C(C=C1)[N+](=O)[O-] | C14H14N2O2
